US08071581B2
Compound 15; 6-(6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline
To a suspension of (6-chloro-pyridazin-3-yl)-hydrazine (1.62 g, 11.2 mmol) and 6-quinoline acetic acid (2.1 g, 11.2 mmol) in dichloromethane (150 mL) at ambient temperature was added dicyclohexylcarbodiimide (2.3 g, 11.2 mmol). After stirring at room temperature for 4.5 hours the formed precipitate was filtered off, washed with dichloromethane and dried in vacuo to return quinolin-6-yl-acetic acid N′-(6-chloro-pyridazin-3-yl)-hydrazide which also contained dicyclohexylurea. This mixture was then taken up in acetic acid (250 mL) and heated for 4 hours at 50° C. After such time the mixture was concentrated onto silica gel in vacuo and purified via flash column chromatography (SiO2, CH2Cl2:CH3OH 100:0-97:3) to return the title compound as a white solid (3.35 g, 11.1 mmol, 99% yield). Analytical data presented in Table 1.

reactant | (6-chloro-pyridazin-3-yl)-hydrazine | 11.2 mmol, 1.62 g | ClC1=CC=C(N=N1)NN | C4H5ClN4
reactant | 6-quinoline acetic acid | 11.2 mmol, 2.1 g | N1=CC=CC2=CC(=CC=C12)CC(=O)O | C11H9NO2
reactant | dicyclohexylcarbodiimide | 11.2 mmol, 2.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 6-(6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 11.1 mmol, 3.35 g, 99% yield | ClC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C15H10ClN5
